US07432287B2
Preparation of 3-(6-ethanesulfonylpyridin-3-yloxy)-5-(2-fluoro-1-fluoromethyl-ethoxy)-N-(1-methyl-1H-pyrazol-3-yl)benzamide
The compound of Production Example 145 was obtained as a colorless amorphous substance using 5-hydroxy-3-methoxymethoxybenzoic acid methyl ester, 5-bromo-2-ethanesulfonylpyridine, 1,3-difluoro-2-propanol and 3-amino-1-methyl-1H-pyrazole, by the same method as in Production Example 117, a corresponding method, or a combination thereof with an ordinary method.

reactant | 5-hydroxy-3-methoxymethoxybenzoic acid methyl ester | COC(C1=CC(=CC(=C1)O)OCOC)=O | C10H12O5
reactant | 5-bromo-2-ethanesulfonylpyridine | BrC=1C=CC(=NC1)S(=O)(=O)CC | C7H8BrNO2S
reactant | 1,3-difluoro-2-propanol | FCC(CF)O | C3H6F2O
reactant | 3-amino-1-methyl-1H-pyrazole | NC1=NN(C=C1)C | C4H7N3
product | 3-(6-ethanesulfonylpyridin-3-yloxy)-5-(2-fluoro-1-fluoromethyl-ethoxy)-N-(1-methyl-1H-pyrazol-3-yl)benzamide | C(C)S(=O)(=O)C1=CC=C(C=N1)OC=1C=C(C(=O)NC2=NN(C=C2)C)C=C(C1)OC(CF)CF | C21H22F2N4O5S
